Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / Nafcillin / Lisinopril
 
Attending: ___
 
Chief Complaint:
Shortness of breath and weight gain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ y/o female with a history of poorly 
controlled DM2, CAD s/p 5 vessel CABG, who presents with 3 weeks 
of gradually worsening SOB, intermittent back pain/CP at night, 
oxygen desaturation to 78% on RA up to 91% on 4 L/min NC. She 
states that she was doing well with her physical therapy when 
she noticed that she was gaining weight and not able to do as 
much. She noted that she was gaining a lot of fluid and was 
becoming uncomfortable. She went to see her PCP because of this 
and she was noted to be volume overloaded and sent to the 
emergency room.

Of note, she had a prolonged hospital (~1 month ___ in which 
she developed osteomyletis. She also was noted to have an 
exacerbation of her congestive heart failure. She received 80 mg 
IV Lasix and was discharged on IV Lasix however she presented on 
40 mg of PO Lasix.

In the ED her vitals were T 98.1, BP 187/88, HR 66, O2 sat 78% 
on RA. She was placed on oxygen and sats came up to the mid 90's 
with 4 L/min O2. He was placed on nitroglycerin drip, aspirin 
325mg, Lasix 40 mg IV, Levofloxacin 750 mg IV. She was noted to 
have crackles in the lungs, had 2+ pitting edema, CXR appeared 
fluid overload (?infiltrate, but likely CHF, BNP=20,000).

On review of systems, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. She denies recent fevers, chills or 
rigors. She denies exertional buttock or calf pain. All of the 
other review of systems were negative.

Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.
 
Past Medical History:
She has had diabetes for a long period of time and her most 
recent hemoglobin A1c level was notably elevated at 14%. She has 
a history of coronary artery disease and had a CABG in ___. She 
has a history of hyperlipidemia and hypertension. With respect 
to her bypass, she has had stents placed as well. Her CABG was 
complicated by a sternal wound infection. Her most recent echo 
was obtained on ___. This revealed ejection fraction of 
greater than or equal to 55% with no evidence of endocarditis.  
She has never had a colonoscopy and she had her last mammogram 
___ years ago. She also has anemia and her most recent 
hematocrit was 30%. She has an elevated platelet level greater 
than 500.
* CAD s/p 5v CABG in ___, with subsequent 4v CABG 6 months 
later
* DM2, diagnosed in ___, complicated by retinopathy and 
neuropathy, poorly controlled
* HTN
* hyperlipidemia
* anemia

PAST SURGICAL HISTORY:  In ___ and ___, she had her coronary
artery bypass.  She has had three C-sections.

OB/GYN HISTORY:  She denies any history of pelvic infections. 
She denies any history of abnormal Pap smears, and her last was
obtained in ___.  She denies any complications of cesarean
section.
 
Social History:
___
Family History:
She reports her mother developed lung cancer, she was a smoker. 
She had a grandmother and an aunt who had breast cancer, 
grandmother was diagnosed with breast cancer in her ___ and her 
aunt was in her ___. There is no other family history of cancer.
 
Physical Exam:
ON ADMISSION:
GENERAL: Overweight middle aged Caucasian woman, comfortable in 
NAD, she was awake alert and oriented x3, mood, affect 
appropriate.
VS: T 97.9 BP 161/82 HR 63 O2 sat 91% on 4 L/min
ADMISSION WEIGHT: 137.3 Kg
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.
NECK: Supple with JVP of 10 cm.
CARDIAC: RRR, normal S1, S2. No murmurs, rubs or gallops. No 
thrills, lifts.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. crackles noted at the 
bases bilaterally, no wheezes or rhonchi.
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: No clubbing, cyanosis or edema.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES:
Right: DP 1+
Left:  DP 1+

ON DISCHARGE:
O: VS: T 98.2, BP 116/48 (110s-140s/40s-60s) HR (50s-60s), RR 
20, O2 sat 92% on 2 L/min
I/O: yesterday 104___ (-1300)
Discharge Weight: 105.6
GENERAL: Comfortable in NAD, she was awake alert and oriented 
x3, mood, affect appropriate.
HEENT: NCAT. Sclera anicteric. Conjunctiva pink, no pallor or 
cyanosis of the oral mucosa. No xanthalesma.
NECK: Supple, JVP 8 cm.
CARDIAC: RRR, normal S1, S2. No murmurs, rubs or gallops. No 
thrills, lifts.
LUNGS: Resp unlabored, no accessory muscle use. mild crackles at 
the bases bilaterally, no wheezes or rhonchi.
ABDOMEN: Soft, non-tender, non-distended
EXTREMITIES: 2+ edema noted bilaterally up to the knee
Left ___: dressing clean/dry/intact, 1+ ___ pitting edema
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES:
Right: DP 1+
Left:  DP 1+
 
Pertinent Results:
ADMISSION LABS:
___ 02:23PM BLOOD WBC-6.2 RBC-5.81*# Hgb-15.3# Hct-49.0*# 
MCV-84 MCH-26.4* MCHC-31.3 RDW-19.0* Plt ___
___ 02:23PM BLOOD ___ PTT-22.9 ___
___ 02:23PM BLOOD Glucose-233* UreaN-34* Creat-1.9* Na-141 
K-4.3 Cl-99 HCO3-33* AnGap-13
___ 02:23PM BLOOD cTropnT-0.11*
___ 02:23PM BLOOD ___
___ 05:50AM BLOOD Calcium-8.6 Phos-4.5 Mg-2.0
___ 02:42PM BLOOD Lactate-1.0

DISCHARGE LABS:
___ 06:10AM BLOOD WBC-5.7 RBC-4.01* Hgb-10.9* Hct-33.2* 
MCV-83 MCH-27.1 MCHC-32.8 RDW-17.1* Plt ___
___ 07:10AM BLOOD ___ PTT-26.6 ___
___ 06:10AM BLOOD Glucose-132* UreaN-99* Creat-2.0* Na-138 
K-5.1 Cl-88* HCO3-45* AnGap-10
___ 06:10AM BLOOD Calcium-9.5 Phos-5.3* Mg-2.1

OTHER PERTINENT RESULTS:
PTH-92*
VENOUS Blood Gas: pO2-42* pCO2-68* pH-7.45 calTCO2-49* Base 
XS-18
Vitamin D Level - PENDING AT DISCHARGE

___ ECG:
Sinus rhythm. Baseline artifact. Poor R wave progression. 
Non-specific 
inferolateral T wave flattening. Compared to the previous 
tracing of ___ artifact is more pronounced in the limb leads. 
QRS changes in leads V3-V4 could be due to lead placement. 

___ CXR:
Patient is status post median sternotomy and CABG. There are low 
inspiratory lung volumes. The heart size is moderately enlarged. 
Patchy airspace opacities are seen within the left lung base as 
well as within the right lung base medially. Findings are 
nonspecific and may represent areas of infection or atelectasis. 
A small left pleural effusion is noted. Pulmonary vascularity is 
not engorged, but the vascularity is crowded together due to low 
inspiratory lung volumes. No pneumothorax is visualized.
IMPRESSION: Patchy bibasilar airspace opacities, worse on the 
left, which
could represent atelectasis or infection. Small left effusion.

___ ECHO:
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). The right 
ventricular cavity is mildly dilated with mild global free wall 
hypokinesis. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic regurgitation. 
The mitral valve leaflets are mildly thickened. There is no 
mitral valve prolapse. Moderate (2+) mitral regurgitation is 
seen. The tricuspid valve leaflets are mildly thickened. 
Moderate [2+] tricuspid regurgitation is seen. There is moderate 
pulmonary artery systolic hypertension. There is no pericardial 
effusion.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved global and regional systolic function. Mild global 
right ventricular systolic dysfunction. Moderate mitral and 
tricuspid regurgitation. Moderate pulmonary hypertension.
  Compared with the report of the prior study (images 
unavailable for review) of ___, right ventricle now appears 
mildly hypokinetic and pulmonary pressures are higher. There may 
be more mitral and tricuspid regurgitation.  

___ ECHO WITH BUBBLES:
The left atrium is normal in size. No atrial septal defect or 
patent foramen ovale is seen by 2D, color Doppler or saline 
contrast with maneuvers. The right atrial pressure is 
indeterminate. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). Tissue Doppler imaging suggests an 
increased left ventricular filling pressure (PCWP>18mmHg). The 
right ventricular cavity is moderately dilated with mild global 
free wall hypokinesis. There is abnormal septal motion/position 
consistent with right ventricular pressure/volume overload. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Moderate (2+) mitral regurgitation is seen. The 
tricuspid valve leaflets are mildly thickened. Moderate to 
severe [3+] tricuspid regurgitation is seen. There is moderate 
pulmonary artery systolic hypertension. There is no pericardial 
effusion.
 Compared with the prior study (images reviewed) of ___, 
the severity of tricuspid regurgitation has increased.  

___ CXR:
PA and lateral chest compared to ___ and ___. 
Moderate cardiomegaly and pulmonary vascular congestion are 
longstanding. Aeration in the left lower lobe has improved since 
___. Whether this is decreased edema or atelectasis is 
radiographically indeterminate, but edema if any is minimal 
currently. Small bilateral pleural effusion, unchanged. No 
pneumothorax.
 
Brief Hospital Course:
Ms. ___ is a ___ y/o female with a history of poorly 
controlled DM2, CAD s/p 5 vessel CABG, who presents with 3 weeks 
of gradually worsening SOB, intermittent back pain/CP at night, 
and desaturation consistent with diastolic congestive heart 
failure exacerbation.

1. Acute on Chronic Diastolic Congestive Heart Failure: Ms. 
___ presented with shortness of breath and weight gain. Her 
previous echo in ___ and her echo during this admission 
showed a preserved EF of 55%. She was on 40 mg of Lasix twice a 
day which was not adequate. She denied any recent chest pain, 
fevers, chills, or large salt intake. She was treated with a 
Lasix drip throughout the admission with a goal of ___ liters 
negative per day. Metolazone 10 mg twice a day was added to her 
regimen. During the hospitalization, Ms. ___ weight 
decreased by more than 30 kg. Her shortness of breath improved.

2. Coronary Artery Disease: Ms. ___ has a significant 
history of CAD and has had multiple interventions in the past. 
She was chest pain free throughout her admission. We continued 
aspirin 81 mg daily, atorvastatin 80 mg daily, isosorbide 
mononitrate 60 mg daily, and metoprolol 100 mg daily.

3. Oxygen Requirement: On admission, Ms ___ had a new oxygen 
requirement. On arrival, her O2 sat was 78% on RA, which 
improved to 91% on 4 L/min. As she was diuresed, her oxygen 
requirement decreased and on discharge, O2 sat was 92% on 2 
L/min. At discharge, a chest x-ray was repeated, which did not 
show pneumonia to explain the oxygen requirement. The patient 
had an echo with bubbles to evaluate for shunting, which did not 
reveal a right-to-left shunt. Ms. ___ will have home oxygen. 
She has follow-up in pulmonary clinic.

4. Chronic kidney disease: Ms. ___ creatinine was slightly 
increased above baseline, which is likely multifactorial, 
secondary to both poor forward flow and diabetic nephropathy. 
Her ___ was held during her hospitalization and re-started prior 
to discharge. She also had elevated phosphorus, but a calcium 
phosphorus product less than 50. She has an elevated PTH. This 
abnormality may be consistent with secondary hyperparathyroidism 
due to renal failure. The patient has follow-up with renal as an 
outpatient.

5. Hypertension: She was noted to be very hypertensive when she 
arrived on the floor. She denied having any headaches or changes 
in her vision. She was initially treated with hydralazine 25 mg 
PO q6, metoprolol and amlodipine. Her blood pressure was better 
controlled. At discharge, the hydralazine was stopped and ___ 
restarted.

6. Type 2 Diabetes: She has poorly controlled diabetes with an 
A1c of 10.9 in ___. She is on insulin at home and was continued 
on  her home regimen.

7. Hyperlipidemia: Continued home regime of atorvastatin 80 mg 
daily.
 
Medications on Admission:
Amlodipine 10 mg PO/NG DAILY
Aspirin 81 mg PO/NG DAILY
Atorvastatin 80 mg PO/NG DAILY
Gabapentin 300 mg PO/NG TID
HYDROmorphone (Dilaudid) 2 mg PO/NG Q12H:PRN Pain
Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY
Metoprolol Succinate XL 100 mg PO DAILY
Omeprazole 20 mg PO BID
Sertraline 100 mg PO/NG DAILY
Lasix 40 mg BID
 
Discharge Medications:
1. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).
2. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
3. amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).
4. gabapentin 300 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).
5. isosorbide mononitrate 60 mg Tablet Sustained Release 24 hr 
Sig: Two (2) Tablet Sustained Release 24 hr PO DAILY (Daily). 
Disp:*60 Tablet Sustained Release 24 hr(s)* Refills:*0*
6. metoprolol succinate 100 mg Tablet Sustained Release 24 hr 
Sig: 1.5 Tablet Sustained Release 24 hrs PO DAILY (Daily). 
Disp:*45 Tablet Sustained Release 24 hr(s)* Refills:*0*
7. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).
8. sertraline 50 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).
9. hydromorphone 4 mg Tablet Sig: 0.5 Tablet PO Q 12H (Every 12 
Hours) as needed for Pain.
10. metolazone 10 mg Tablet Sig: One (1) Tablet PO once a day: 
Please take prior to torsemide. Disp:*30 Tablet(s)* Refills:*0*
11. torsemide 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily). Disp:*30 Tablet(s)* Refills:*1*
12. insulin glargine 100 unit/mL Cartridge Sig: ___ (22) 
Units Subcutaneous once a day.
13. insulin lispro 100 unit/mL Cartridge Sig: AS DIRECTED  
Subcutaneous QACHS: Please take insulin as per sliding scale.
14. metoclopramide 10 mg Tablet Sig: 0.5 Tablet PO QIDACHS (4 
times a day (before meals and at bedtime)): Please take 30 
minutes prior to meals. Disp:*60 Tablet(s)* Refills:*0*
15. Cozaar 50 mg Tablet Sig: One (1) Tablet PO once a day.
16. Ativan 1 mg Tablet Sig: As previously directed prior to 
admission Tablet PO once a day.
17. ferrous gluconate 324 mg (38 mg Iron) Tablet Sig: One (1) 
Tablet PO once a day.
18. Outpatient Lab Work
Chemistry - Na, K, Cl, HCO3, BUN, Cr
___
Please fax results to PCP ___ at ___
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Acute on Chronic Diastolic Congestive Heart Failure

Secondary:
Coronary Artery Disease
Hypertension
Diabetes Mellitus
Chronic renal insufficiency
Hypoxemia
Hyperlipidemia
Anemia
Hyperphosphatemia
Secondary hyperparathyroidism
 
Discharge Condition:
Oxygen requirement of 3 L/min (sat 92% on 3L)

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with a congestive heart 
failure exacerbation.   You were given medication to remove 
fluid from your body and your symptoms improved.  Since you were 
admitted, you have required oxygen to maintain adequate oxygen 
in your blood.  We are sending you home with oxygen.  You will 
also have follow-up with the pulmonary doctors.  

You need to have your labs checked on ___.  Please have these 
checked and sent to your primary care doctor to have your 
electrolytes evaluated. We also found that you have some injury 
to your kidneys.  This is likely causing your phosphorus to be 
elevated.  We are going to have you follow-up with the kidney 
doctors as ___ outpatient.  

You were started on a diuretic called torsemide to help keep the 
fluid from reaccumulating.  Torsemide is a stronger diuretic 
than furosemide.  

The following changes were made to your medications:
1. Added torsemide 100 mg PO daily
2. Added Metolazone 10 mg daily (please take this medication 
prior to the torsemide)
3. Stopped Furosemide 40 mg PO BID
4. Increased your dose of Isosorbide Mononitrate to 120 mg daily 
from 60 mg daily
5. Increased your dose of Metoprolol Succinate XL to 150 mg 
daily from 100 mg daily
6. Added Reglan 10 mg prior to meals and bedtime.  Please take 
this medication for gastroparesis.  Take 30 minutes prior to 
discharge. 

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

Please see below for you follow-up appointments. 
 
Followup Instructions:
___